US09102669B2
To a mixture of 6-fluoro-1-(piperidin-4-yl)indoline (128 mg, 0.5 mmol), 3-chloro-6-(4-methylimidazol-1-yl)pyridazine (78 mg, 0.4 mmol) in DMSO (1.5 mL) was added DIPEA (0.25 mL, 1.5 mmol). The resulting mixture was sealed and heated at 180° C. for 1.5 h under microwave irradiation. The resulting mixture was then poured into H2O (30 mL) and the aqueous layer was extracted with 10% CH2Cl2/Et2O (80 mL×4). The combined organic layer was dried (Na2SO4) and filtered. The solvent was removed and the resulting residue was purified by column (dry loading) using EtOAc then 3% MeOH/EtOAc as the eluent to yield 6-fluoro-1-(1-(6-(4-methyl-1H-imidazol-1-yl)pyridazin-3-yl)piperidin-4-yl)indoline.

reactant | 6-fluoro-1-(piperidin-4-yl)indoline | 0.5 mmol, 128 mg | FC1=CC=C2CCN(C2=C1)C1CCNCC1 | C13H17FN2
reactant | 3-chloro-6-(4-methylimidazol-1-yl)pyridazine | 0.4 mmol, 78 mg | ClC=1N=NC(=CC1)N1C=NC(=C1)C | C8H7ClN4
reactant | DIPEA | 1.5 mmol, 0.25 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | H2O | 30 mL | O | H2O
solvent | DMSO | 1.5 mL | CS(=O)C | C2H6OS
product | 6-fluoro-1-(1-(6-(4-methyl-1H-imidazol-1-yl)pyridazin-3-yl)piperidin-4-yl)indoline | FC1=CC=C2CCN(C2=C1)C1CCN(CC1)C=1N=NC(=CC1)N1C=NC(=C1)C | C21H23FN6
